US09388189B2
b) N-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-6-yl)methanesulfonamide
N-(4-Bromo-1H-indazol-6-yl)methanesulfonamide (300 mg, 1.03 mmol) was treated with bis(pinacolato)diboron (525 mg, 2.07 mmol), potassium acetate (300 mg, 3.06 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (40 mg, 0.05 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (30 mg, 0.05 mmol) according to the method described in Preparation 203. The crude was purified by reverse phase using SP1® Purification System to give 50 mg (14% yield) of the title compound. Purity 100%.

reactant | N-(4-Bromo-1H-indazol-6-yl)methanesulfonamide | 1.03 mmol, 300 mg | BrC1=C2C=NNC2=CC(=C1)NS(=O)(=O)C | C8H8BrN3O2S
reactant | bis(pinacolato)diboron | 2.07 mmol, 525 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.06 mmol, 300 mg | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.05 mmol, 30 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazol-6-yl)methanesulfonamide | 50 mg, 14% yield | CC1(OB(OC1(C)C)C1=C2C=NNC2=CC(=C1)NS(=O)(=O)C)C | C14H20BN3O4S
